US08686044B2
Preparation of N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-6-chloropicoline amide
According to the method of 1-3 of Example 1, a target compound was prepared from 2-chloropyridine-6-carboxylic acid chloride prepared from 2-chloropyridine-6-carboxylic acid and thionyl chloride, and 2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline obtained in 1-2 of Example 1.

reactant | 2-chloropyridine-6-carboxylic acid chloride | ClC1=NC(=CC=C1)C(=O)Cl | C6H3Cl2NO
reactant | 2-chloropyridine-6-carboxylic acid | ClC1=NC(=CC=C1)C(=O)O | C6H4ClNO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline | BrC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F | C10H4BrF10N
product | N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)phenyl)-6-chloropicoline amide | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F)NC(C1=NC(=CC=C1)Cl)=O | C16H6BrClF10N2O
